US06627651B1
Into a solution of ethyl 6-(4-methylphenyl)-1H-indole-2-carboxylate (0.9 g) in DMF (10 ml) was added at 0° C. sodium hydride (60%, 0.14 g), and the resulting mixture was stirred for 15 minutes. Into the reaction mixture was added methyl iodide (0.22 ml), and the resulting mixture was stirred at room temperature for 3 hours. The reaction mixture was mixed with water and was extracted with ethyl acetate. The organic layer was washed with an aqueous saturated solution of sodium chloride and was dried with magnesium sulfate. After concentration of the organic layer under reduced pressure, the residue was subjected to separation and purification using column chromatography (ethyl acetate/hexane 1:4) and further to recrystallization (ethyl acetate/hexane) to obtain ethyl 1-methyl-6-(4-methylphenyl)-1H-indole-2-carboxylate (0.80 g) as colorless crystals.

reactant | ethyl 6-(4-methylphenyl)-1H-indole-2-carboxylate | 0.9 g | CC1=CC=C(C=C1)C1=CC=C2C=C(NC2=C1)C(=O)OCC | C18H17NO2
reactant | sodium hydride | 0.14 g | [H-].[Na+]
reactant | methyl iodide | 0.22 ml | CI | CH3I
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | ethyl 1-methyl-6-(4-methylphenyl)-1H-indole-2-carboxylate | 0.80 g | CN1C(=CC2=CC=C(C=C12)C1=CC=C(C=C1)C)C(=O)OCC | C19H19NO2
